US05286742
Preparation of 4-(2,3-Dichlorophenyl)pyrrole-3-thiocarboxamide
A mixture of 4-(2,3-dichlorophenyl)pyrrole-3-carboxamide (0.98 g, 3.8 mmol) and 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (0.77 g, 1.9 mmol) in tetrahydrofuran is heated at reflux for 75 minutes, cooled and concentrated in vacuo to obtain a residue. Chromatography of the residue using silica gel and a 1:1 hexane/ethyl acetate mixture gives the title product as a yellow solid (0.54 g, mp 128°-132° C.).

reactant | 4-(2,3-dichlorophenyl)pyrrole-3-carboxamide | 3.8 mmol, 0.98 g | ClC1=C(C=CC=C1Cl)C=1C(=CNC1)C(=O)N | C11H8Cl2N2O
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 1.9 mmol, 0.77 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2,3-Dichlorophenyl)pyrrole-3-thiocarboxamide | 0.54 g | ClC1=C(C=CC=C1Cl)C=1C(=CNC1)C(N)=S | C11H8Cl2N2S
